US07858796B2
(100) 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-[4-(4-morpholinylmethyl)phenyl]-1H-indole-7-carboxamide
Following the general procedure of example (99), 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-(4-formylphenyl)-1H-indole-7-carboxamide (50 mg, 0.1 mmol), morpholine (9 mg, 0.1 mmol) and NaBH(OAc)3 (64 mg, 0.3 mmol) were reacted to give the title compound (15 mg, 30%).

reactant | 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-(4-formylphenyl)-1H-indole-7-carboxamide | 0.1 mmol, 50 mg | CN(CCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=C(C=C1)C=O)C(=O)N)C | C26H32N4O4S
reactant | morpholine | 0.1 mmol, 9 mg | N1CCOCC1 | C4H9NO
reactant | NaBH(OAc)3 | 0.3 mmol, 64 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-[4-(4-morpholinylmethyl)phenyl]-1H-indole-7-carboxamide | 15 mg, 30% | CN(CCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=C(C=C1)CN1CCOCC1)C(=O)N)C | C30H41N5O4S
